US07514437B2
Carbonyldiimidazole (100 mg) was suspended in anhydrous dichloromethane (1 mL) and the suspension was left at room temperature for 15 minutes. 2RS)-2-(1-benzothien-5-yl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N-(2-hydroxyphenyl)ethanamide (200 mg) was then added and the mixture was stirred at room temperature for 5 hours 20 minutes. The resulting brown solution was then treated with a 2.0M solution of dimethylamine in tetrahydrofuran (1.0 mL, 6 equiv.) and the resulting mixture was stirred for 30 minutes and then left to stand at room temperature for 18 hours 15 minutes. The reaction mixture was evaporated under reduced pressure. The crude product was purified by silica column chromatography eluting with 1:1 v/v ethyl acetate:cyclohexane. The required fractions were combined and evaporated in vacuo to give (2R)-2-(benzothien-5-yl) -2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N,N-dimethylethanamide as a white solid (90 mg).

reactant | Carbonyldiimidazole | 100 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(1-benzothien-5-yl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N-(2-hydroxyphenyl)ethanamide | 200 mg | S1C=CC2=C1C=CC(=C2)C(C(=O)NC2=C(C=CC=C2)O)N2C([C@H](NC([C@H]2CC(C)C)=O)C2CC1=CC=CC=C1C2)=O | C33H33N3O4S
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 1.0 mL, 6 equiv. | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (2R)-2-(benzothien-5-yl) -2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N,N-dimethylethanamide | 90 mg | S1C=CC2=C1C=CC(=C2)[C@H](C(=O)N(C)C)N2C([C@H](NC([C@H]2CC(C)C)=O)C2CC1=CC=CC=C1C2)=O | C29H33N3O3S
